Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain, Diarrhea 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ male with HIV and hepatitis C with cirrhosis was admitted 
with abdominal pain and diarrhea. 

He reports approximately three months of chronic abdominal pain 
with diarrhea. His symptoms have markedly worsened over the last 
3 days. He now has nearly ___ episodes of diarrhea per day. He 
describes these episodes that begin with headaches and blurry 
vision, progressing to abdominal pain and diarrhea. The 
headache, blurry vision, and abdominal pain all improve once he 
is finished with his bowel movements. Associated symptoms 
include abdominal distension. He describes his abdominal pain as 
the following: character is sharp, location is throughout his 
abdomen. He denies any recent travel or sick contacts. He did 
take fluconazole for thrush approximately one month ago.

Upon arrival in the ED, temp 97.7, HR 96, BP 182/89, RR 16, and 
pulse ox 100% on room air. Exam was notable for distension and 
guiac negative stools. Labs are notable for sodium 130, 
potassium 6, Cr 1.3, ALT 77, and AST 94. CT Abd/Pelvis and CT 
Head were unremarkable. He received nearly 2L IVF. He also 
received calcium gluconate, insulin, D50, kayexalate, zofran, 
and mag citrate. GI was consulted and they are recommending 
starting his colonoscopy prep with plans for colonoscopy 
tomorrow. 

Review of systems:  
(+) Per HPI.  abdominal pain, diarrhea, headache, blurry vision, 
poor appetite  
(-) Denies fever, chills, night sweats, weight loss, sinus 
tenderness, rhinorrhea, congestion, cough, shortness of breath, 
chest pain or tightness, palpitations, nausea, vomiting, 
constipation, change in bladder habits, dysuria, arthralgias, or 
myalgias.  
 
Past Medical History:
1. HIV
2. Hepatitis C cirrhosis
3. Chronic Renal Failure
4. Cervical Stenosis s/p surgical procedure in ___. COPD
6. Colonic Polyps
7. Anemia of Chronic Disease 
8. Bilateral Cataracts
9. Scrotal Varicocele/Hydrocele
10. Erectile Dysfunction
11. Peripheral Neuropathy
12. G6PD defeciency
13. ?h/o TB ___ - while working at ___, treated for 9 mos 
14. RPR + in ___ treated 
 
 
Social History:
___
Family History:
Brother - TB
Mother - heart problems 
 
Physical Exam:
T 96.7 / BP 148/80 / HR 78 / RR 20 / Pulse ox 100% on room air
Gen: no acute distress, pleasant, appearing younger than his 
stated age
HEENT: Clear OP, MMM, no oral ulcerations
NECK: Supple, No LAD, No JVD
CV: RR, NL rate. NL S1, S2. No murmurs, rubs or gallops
LUNGS: CTA, BS ___, No W/R/C
ABD: + BS, soft, tender, distended, no rebound or guarding
EXT: No edema. 2+ DP pulses ___
SKIN: No rash
NEURO: A&Ox3. Appropriate. CN ___ intact. ___ strength 
throughout. ___ reflexes, equal ___. Normal coordination. Gait 
assessment deferred
PSYCH: Listens and responds to questions appropriately, pleasant
 
Pertinent Results:
___ 
Na 130 / K 6 / Cl 100 / CO2 23 / BUN 18 / Cr 1.3 / BG 101 
Ca 9.8 / Mg 2 / phos 3.7 
ALT 77 / AST 94 / Alk Phos 116 / TB .3 / Alb 4 / Lipase 141
WBC 5.2 / hct 35.9 / Plt 154
N 38 / L 52 / M 6 / E 3 / B 1
UA - straw, clear, 1.008, pH 8, negative for all else
.
Baseline Cr 1.2-1.4
Baseline Hct ___
Baseline Na 137-140
.
___ CD4 ___ HIV Viral Load - 577,000 IU/mL.
.
MICROBIOLOGY: 
___ C diff negative
.
STUDIES: 
___ CT Abd/Pelvis - 
1. No CT source for acute abdominal pain localized. 
2. Lobulated contour of the kidneys most compatible with sequela 
of prior 
infection. 
.
___ CT Head - 
1. Overall, no significant interval change since ___, with 
no acute 
intracranial process. 
2. Stable diffuse periventricular hypodensity likely related to 
chronic small vessel ischemic change, though note that in the 
setting of HIV, HIV 
encephalopathy can also have a similar appearance. 
.
___ ECG - NSR 
.
Discharge labs ___:
WBC-4.7 RBC-3.42* Hgb-10.3* Hct-31.8* MCV-93 MCH-30.0 MCHC-32.2 
RDW-11.9 Plt ___
Glucose-141* UreaN-16 Creat-1.2 Na-133 K-4.1 Cl-105 HCO3-20* 
AnGap-___ male with HIV and hepatitis C was admitted with diarrhea 
and abominal pain. 

1. Diarrhea
Etiology of his abdominal pain and diarrhea is unclear but is 
certainly concerning for infectious etiology or malignancy. His 
most recent CD4 count is 492, making him at low risk for most 
opportunistic infections. A c-scope was deferred b/c of 
hyperkalemia. His symptoms improved overnight and his abd pain 
resolved, so his procedure was deferred to outpatient.  His 
already scheduled o/p c-scope was arranged to be sooner.  C 
diff, and other routine pathogens (including campylobacter, 
shigella, yersinia, Ecoli O15___ and vibrio were negative, but O 
and P was still pending.  Of note, the patient has already had 
an full o/p w/u for diarrhea in an HIV patient. 
.
2. Hyperkalemia
The test was repeated and was without hemolysis.  His ecg was 
normal. This suggests that the high K may have been real and 
possibly secondary to his ACEI.  His lisinopril was held. He was 
given lasix and fluid d and his K came down to 4.7.  He was 
discharged off his ACEI to follow up and get a repeat K.  
.
3. HIV: Stable.  Continued home regimen
.
4. Benign Hypertension: As stated above, his lisinopril was 
discontinued due to hyperkalemia.  He was started on amlodipine 
5 mg daily after his blood pressure was running in the 150s, 
with good effect.  He had some mild orthostatic hypotension with 
norvasc initiation after his diuresis the day prior.  He felt 
well at discharge with a blood pressure of 122/68.
.
5. abd pain: of unclear etiology. He did have some AST/ALT 
elevation, but he has known hep C. A RUQ u/s was negative. An 
Abd CT was normal. His pain resolved without intervention.
.
6. Headache: The patient presented with a HA that resolved 
without intervnetion. A head CT done int he ER was normal. 
 
Medications on Admission:
1. Aspirin 81mg PO daily
2. Epivir 150mg PO dialy
3. Lisinopril 10mg PO daily
4. MVI 1 tab daily
5. Prilosec 20mg PO daily
6. Sustiva 600mg PO daily
7. Ziagen 300mg PO bid
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Lamivudine 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Efavirenz 600 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Abacavir 300 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
5. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
8. Outpatient Lab Work
BMP ___, results to Dr. ___ Phone: ___
Office Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
chronic diarrhea
Hypertension
Hyperkalemia
HIV
Hepatitis C, chronic
 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent
 
Discharge Instructions:
As we discussed, you will still need a colonoscopy for the 
diagnosis of your diarrhea.  You will be contacted by the 
___ clinic on ___ to schedule an earlier 
appointment.  We also noticed that your potassium was high.  
This is possibly from the effect of your lisinopril. We 
recommend that you not take this medication until you follow up 
with your primary doctor.  
.
We started a new blood pressure medication, amlodipine, that you 
should take until you see Dr. ___.  Check your blood 
pressure once a day until you see him.
.
Stay well hydrated.
We will ask Dr. ___ to check your potassium and kidney 
function when you see him.
 
Followup Instructions:
___